US08084449B2
A mixture of N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (50 mg, 0.076 mmol), 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate (24.07 mg, 0.076 mmol), Na2CO3 (24.27 mg, 0.229 mmol) and PdCl2(dppf) (5.59 mg, 7.63 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and was then heated in the Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain a crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried using a EZ2 GeneVac evaporator and then combined to give 1,1-dimethylethyl 4-[(2′-chloro-5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperidinecarboxylate. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred at room temperature for 2 h. Solvent was evaporated under a stream of nitrogen and then the residue was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 60% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with saturated 1 N NaOH and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[6-chloro-3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide as a solid (13 mg, 22.7%). LC-MS m/z 749 M+, 0.80 min (ret time).

reactant | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.076 mmol, 50 mg | BrC=1C=C(C=CC1Cl)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C30H33BrClN7O3
reactant | 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate | 0.076 mmol, 24.07 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36BNO4
reactant | Na2CO3 | 0.229 mmol, 24.27 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 7.63 μmol, 5.59 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl 4-[(2′-chloro-5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperidinecarboxylate | ClC1=C(C=C(C=C1)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)C2=CC(=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C | C47H57ClN8O5
